US04871735
2-[N-Methyl-N-((2-methyl-naphth-1-yl)-eth-2-yl)-amino-prop-3-yl]-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one hydrochloride
A mixture of 1.13 g (4 mmol) of 2-(3-chloropropyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one, 1.04 g (4.4 mmol) of N-methyl-2-(2-methyl-naphth-1-yl)-ethylamine hydrochloride and 1.5 ml of N-ethyl-diisopropylamine is refluxed for 2 hours. The excess N-ethyl-diisopropylamine is evaporated off in vacuo and the residue remaining is dissolved in a mixture of methylene chloride and 2 molar sodium hydroxide solution. The organic phase is separated, washed with water, dried over magnesium sulphate, evaporated down in vacuo and purified over a 150 g silica gel column (0.062-0.2 mm) with methylene chloride and then with increasing amounts of ethanol (up to 5%). The hydrochloride is precipitated from a solution in acetone with ethereal hydrochloric acid and then recrystallised from acetone.

reactant | 2-(3-chloropropyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one | 4 mmol, 1.13 g | ClCCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C14H18ClNO3
reactant | N-methyl-2-(2-methyl-naphth-1-yl)-ethylamine hydrochloride | 4.4 mmol, 1.04 g | Cl.CNCCC1=C(C=CC2=CC=CC=C12)C
reactant | N-ethyl-diisopropylamine | 1.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | 2-[N-Methyl-N-((2-methyl-naphth-1-yl)-eth-2-yl)-amino-prop-3-yl]-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one hydrochloride | Cl.CN(C(C)C1=C(C=CC2=CC=CC=C12)C)C(CC)N1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C28H34N2O3.ClH/c1-7-26(29(4)19(3)27-18(2)12-13-20-10-8-9-11-22(20)27)30-15-14-21-16-24(32-5)25(33-6)17-23(21)28(30)31;/h8-13,16-17,19,26H,7,14-15H2,1-6H3;1H
